US07238808B2
5-[5-(4-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine
The title compound was prepared from 5-(4-chloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (example C.4) (322 mg, 1.0 mmol) and 2-amino-5-bromopyridine (173 mg, 1.0 mmol) according to general procedure II. Obtained as an orange solid (71 mg, 17%). MS (ISP) 414.3 [(M+H)+].

reactant | 5-(4-chloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 322 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C | C15H7ClF3N3
reactant | 2-amino-5-bromopyridine | 1.0 mmol, 173 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
product | 5-[5-(4-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC=2C=CC(=NC2)N | C20H11ClF3N5
